US06518301B1
3-(4-hydroxyphenyl)-7-hydroxy-4-methylcoumarin
A suspension of 3-(4-acetoxyphenyl)-7-acetoxy-4-methylcoumarin (500 mg) in THF (10 mL) and 1N aqueous sodium hydroxide (10 mL) was stirred for 1 h. The mixture is acidified to pH=1 with concentrated HCl and extracted with EtOAc 1 water. The organic layer was washed with brine and dried over MgSO4. Evaporation of the solvent and trituration of the residue with ether gave the title compound (140 mg)

reactant | 3-(4-acetoxyphenyl)-7-acetoxy-4-methylcoumarin | 500 mg | C(C)(=O)OC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1C)OC(C)=O)=O | C20H16O6
reactant | HCl | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
product | 3-(4-hydroxyphenyl)-7-hydroxy-4-methylcoumarin | 140 mg | OC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1C)O)=O | C16H12O4
